US06288103B1
Methyl 4-acetoxyindole-2-carboxylate
Methyl 4-hydroxyindole-2-carboxylate (0.5 g) and 4-dimethylarninopyridine (50 mg) were dissolved in acetic anhydride (5 ml) and heated at 80° C. for 3 hours. The reaction was allowed to cool overnight to precipitate white crystals, which were filtered and dried in vacuo (0.44 g, 72%); NMR δ (CD3SOCD3) 2.34 (s, 3H), 3.85 (s, 3H), 6.80 (d, 1H), 7.06 (s, 1H), 7.23 (t, 1H), 7.29-7.35 (m, 1H), 12.1 (bs, 1H); M/z (−) 232 (M−H+).

reactant | Methyl 4-hydroxyindole-2-carboxylate | 0.5 g | OC1=C2C=C(NC2=CC=C1)C(=O)OC | C10H9NO3
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylarninopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 4-acetoxyindole-2-carboxylate | C(C)(=O)OC1=C2C=C(NC2=CC=C1)C(=O)OC | C12H11NO4
